US06022379
Using the procedure described in Example 1, starting with 3.16 millimol of 1,4-naphthoquinone, 25 millimol of pyrrole and 3.16 millimol of copper acetate in 50 ml of acetic acid, the product 2-(1H-pyrrol-2-yl)-[1,4]-naphthoquinone was isolated in a yield of 18% after purification by chromatography on a column of silica.

reactant | 1,4-naphthoquinone | 3.16 millimol | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
reactant | pyrrole | 25 millimol | N1C=CC=C1 | C4H5N
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | copper acetate | 3.16 millimol | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-(1H-pyrrol-2-yl)-[1,4]-naphthoquinone | yield of 18% | N1C(=CC=C1)C=1C(C2=CC=CC=C2C(C1)=O)=O | C14H9NO2
